US05246915
367.0 g of 1-amino-7-methoxy-1,2,3,4-tetrahydronaphthalene are solved in 1500 ml of diethyl ether. To this solution is dropwise added a solution of 158.3 g of bromoacetic acid methyl ester in 450 ml of diethyl ether. The mixture is stirred at room temperature for 70 hours. The precipitate is separated and the solution is concentrated to dryness, yielding N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl) glycine methyl ester quantitatively.

reactant | 1-amino-7-methoxy-1,2,3,4-tetrahydronaphthalene | 367.0 g | NC1CCCC2=CC=C(C=C12)OC | C11H15NO
reactant | bromoacetic acid methyl ester | 158.3 g | COC(CBr)=O | C3H5BrO2
solvent | diethyl ether | 1500 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 450 ml | C(C)OCC | C4H10O
product | N-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl) glycine methyl ester | COC(CNC1CCCC2=CC=C(C=C12)OC)=O | C14H19NO3
